US04613607
3-[3(S)-ETHYL 4(R)-PIPERIDYL]-1-(6-METHOXY-4-QUINOLYL)-1(S)-PROPANOL
A mixture of 6 g of 3-[3(R)-ethenyl 4(R)-piperidyl]-1-(6-methoxy-4-quinolyl)-1(S)-propanol dihydrochloride, 15 ml of a normal aqueous solution of sodium hydroxide, 1.2 ml of a 0.4% aqueous solution of formaldehyde and 60 ml of water was heated at 120° C. for 24 hours in an autoclave. After cooling, the reaction medium was made alkaline by addition of sodium hydroxide lye and extracted with methylene chloride. The organic phase was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The oily residue obtained was subjected to high pressure liquid chromatography (support: silica gel; eluant: 100/7.5/3.75 toluene-methanol-diethylamine mixture). The separated fractions containing the desired product were evaporated. There was thus recovered 2.6 g of an oil which, by the action of HCl in ethanol, was converted into the dihydrochloride. After three recrystallizations of this last product in ethanol, 0.7 g of 3-[3(S)-ethenyl 4(R)-piperidyl]-1-(6-methoxy-4-quinolyl)-1(S)-propanol were obtained in the form of the dihydrochloride melting at 204° C.

reactant | 3-[3(R)-ethenyl 4(R)-piperidyl]-1-(6-methoxy-4-quinolyl)-1(S)-propanol dihydrochloride | 6 g | Cl.Cl.C(=C)[C@H]1CNCC[C@H]1CC[C@H](O)C1=CC=NC2=CC=C(C=C12)OC
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formaldehyde | C=O | CH2O
reactant | toluene-methanol diethylamine | C=1(C(=CC=CC1)CO)C.C(C)NCC
solvent | water | 60 ml | O | H2O
product | 3-[3(S)-ETHYL 4(R)-PIPERIDYL]-1-(6-METHOXY-4-QUINOLYL)-1(S)-PROPANOL | C(C)[C@@H]1CNCC[C@H]1CC[C@H](O)C1=CC=NC2=CC=C(C=C12)OC | C20H28N2O2
